US04454120
A solution of N2 -(tert-butyloxycarbonyl)-N1 -(3-phenylpropyl)-D-glutamamide (1.5 g.) in hydrogen chloride-dioxane (4.5 N, 10 ml.) was stirred at room temperature for 15 minutes. Water (50 ml.) was added and the mixture was concentrated to about 5 ml. Ethanol (50 ml.) was added and the mixture was concentrated to less than 5 ml. Dimethylformamide (20 ml.) was added and the mixture was stripped of the remaining ethanol, affording N1 -(3-phenylpropyl)-D-glutamamide hydrochloride as a solution in the dimethylformamide. N-(tert-Butyloxycarbonyl)-O-(tert-butyl)-L-tyrosine pentafluorophenyl ester (2.08 g.) and diisopropylethylamine (0.72 ml.) were added and the mixture was stirred at room temperature for two hours. More diisopropylethylamine was added to neutralize the mixture. The reaction was complete in one half hour. The mixture was stripped of volatiles under vacuum. A solution of the residue in ethyl acetate was washed twice with water, twice with saturated aqueous sodium bicarbonate, once again with water, twice with aqueous citric acid and once with saturated aqueous sodium chloride, dried and stripped of ethyl acetate. Methanol was added to the residue and the mixture was stripped again. The product (1.80 g.) was purified by high pressure liquid chromatography using ethyl acetate-ethanol (96:4) as the eluant, affording [N-(tert-butyloxycarbonyl)-O-(tert-butyl)-L-tyrosyl]-N1 -(3-phenylpropyl)-D-glutamamide as a gel in two crops (711 mg., 427 mg.).

reactant | N2 (tert-butyloxycarbonyl)-N1 -(3-phenylpropyl)-D-glutamamide | 1.5 g | N#N.C(C)(C)(C)OC(=O)N[C@H](CCC(=O)N)C(=O)NCCCC1=CC=CC=C1
reactant | Water | 50 ml | O | H2O
reactant | hydrogen chloride dioxane | 4.5 N, 10 ml | Cl.O1CCOCC1
product | N1 -(3-phenylpropyl)-D-glutamamide hydrochloride | Cl.C1(=CC=CC=C1)CCCNC([C@H](N)CCC(=O)N)=O | InChI=1S/C14H21N3O2.ClH/c15-12(8-9-13(16)18)14(19)17-10-4-7-11-5-2-1-3-6-11;/h1-3,5-6,12H,4,7-10,15H2,(H2,16,18)(H,17,19);1H/t12-;/m1./s1
